US04604406
The crude 6-methoxy-5-(pentafluoroethyl)-1-naphthalene carboxylic acid (3.65 g, 11.4 mmol), 1-hydroxybenzotriazole (2.31 g, 17.1 mmol), dry distilled dimethylformamide (35 ml) and dicyclohexylcarbodiimide (2.82 g, 13.7 mmol) were stirred at room temperature for 1 hour. The mixture was cooled to 0° C., a solution of sarcosine methyl ester hydrochloride (3.18 g, 22.8 mmol) in dimethylformamide (30 ml) and N-ethyl morpholine (2.92 ml, 22.8 mmol) was added and stirring continued for 2 hours at room temperature. After cooling to 0° C., the precipitate (dicyclohexyl urea) was removed by filtration, the filtrate evaporated and the residue purified by HPLC (ethyl acetate/hexane 1:1, Waters Prep LC 500A). 1.5 g of pure, and 2.5 g of less pure N-[[6-methoxy-5-(pentafluoroethyl)-1-naphthalenyl]carbonyl]-N-methylglycine, methyl ester were obtained. nmr (DMSO): δ2.75 & 3.25 (2s, 3H, N--CH3, rotamers); δ3.75 (s, 3H, OCH3); δ3.97 (s, 3H, OCH3); δ4.35 (broad, 2H, N--CH2 --CO); δ7.7 (m, 5H, Har). ms: m/e 405 (M+), 303, 195, 102.

reactant | 6-methoxy-5-(pentafluoroethyl)-1-naphthalene carboxylic acid | 11.4 mmol, 3.65 g | COC=1C(=C2C=CC=C(C2=CC1)C(=O)O)C(C(F)(F)F)(F)F | C14H9F5O3
reactant | 1-hydroxybenzotriazole | 17.1 mmol, 2.31 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 13.7 mmol, 2.82 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | sarcosine methyl ester hydrochloride | 22.8 mmol, 3.18 g | Cl.COC(CNC)=O
reactant | N-ethyl morpholine | 22.8 mmol, 2.92 ml | C(C)N1CCOCC1 | C6H13NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | N-[[6-methoxy-5-(pentafluoroethyl)-1-naphthalenyl]carbonyl]-N-methylglycine, methyl ester | 2.5 g | COC=1C(=C2C=CC=C(C2=CC1)C(=O)N(CC(=O)OC)C)C(C(F)(F)F)(F)F | C18H16F5NO4
